US09447035B2
Step 1: Preparation of (S)-2-(4-bromo-2,6-difluorobenzoylamino)-3-[4-(1,3,6-trimethyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidin-5-yl)phenyl]propionic acid propyl ester:
The title compound was prepared using a similar procedure as described in Example 1, Step 8, starting from (S)-2-amino-3-[4-(1,3,6-trimethyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidin-5-yl)phenyl]propionic acid propyl ester (4.67 g, 13 mmol) , 4-bromo-2,6-difluorobenzoic acid (3.12 g, 13.16 mmol), HBTU (4.99 g, 13.16 mmol), and DIPEA (6.8 mL, 39 mmol), and after ISCO column chromatography purification, resulted in an amorphous off-white solid (6.71 g, 89%). ES-HRMS m/e calcd for C26H26BrF2N3O5 (M+H)+ 578.1097, found 578.1096.

reactant | (S)-2-amino-3-[4-(1,3,6-trimethyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidin-5-yl)phenyl]propionic acid propyl ester | 13 mmol, 4.67 g | C(CC)OC([C@H](CC1=CC=C(C=C1)C=1C(N(C(N(C1C)C)=O)C)=O)N)=O | C19H25N3O4
reactant | 4-bromo-2,6-difluorobenzoic acid | 13.16 mmol, 3.12 g | BrC1=CC(=C(C(=O)O)C(=C1)F)F | C7H3BrF2O2
reactant | HBTU | 13.16 mmol, 4.99 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 39 mmol, 6.8 mL | CCN(C(C)C)C(C)C | C8H19N
product | (S)-2-(4-bromo-2,6-difluorobenzoylamino)-3-[4-(1,3,6-trimethyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidin-5-yl)phenyl]propionic acid propyl ester | C(CC)OC([C@H](CC1=CC=C(C=C1)C=1C(N(C(N(C1C)C)=O)C)=O)NC(C1=C(C=C(C=C1F)Br)F)=O)=O | C26H26BrF2N3O5
